US09102637B2
(a) ethyl 5-amino-2-bromothiazole-4-carboxylate
N-Bromosuccinimide (0.54 g, 3.03 mmol) was added to a solution of 5-aminothiazole-4-carboxylic acid ethyl ester (0.44 g, 2.53 mmol) [prepared according to the procedure described by Golankiewicz et al. (Tetrahedron, 41 (24), 5989-5994 (1985))] in acetonitrile (10 mL), and the mixture was stirred for 30 min. The reaction mixture was diluted with EtOAc (50 mL) and washed with 5% K2CO3 aq. solution (25 mL) followed by brine (25mL). The organic layer was dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography eluted with 15% EtOAc in hexane to give 0.37 g (58% yield) of the titled compound.

reactant | N-Bromosuccinimide | 3.03 mmol, 0.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5-aminothiazole-4-carboxylic acid ethyl ester | 2.53 mmol, 0.44 g | C(C)OC(=O)C=1N=CSC1N | C6H8N2O2S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | ethyl 5-amino-2-bromothiazole-4-carboxylate | 0.37 g, 58% yield | NC1=C(N=C(S1)Br)C(=O)OCC | C6H7BrN2O2S
